US06828460B2
(±)-N-{3-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetamide
Triethylamine (15 μl) and acetic anhydride (10 ml) were added to a stirred solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexylamine (29 mg) in anhydrous 1,2-dichloroethane (2 ml) at room temperature. After 0.5 hr, the reaction mixture was partitioned between water (20 ml) and ethyl acetate (50 ml) and the aqueous layer was extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried over magnesium sulfate and evaporated in vacuo to give the title compound as a solid (22 mg, 66%) and a mixture of diastereoisomers; m/z (ES+) 338 (M+H)+.

reactant | Triethylamine | 15 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexylamine | 29 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)N | C16H25NO4
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | (±)-N-{3-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetamide | 22 mg, 66% | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)NC(C)=O | C18H27NO5
